US03994918
A mixture of 8 g. of freshly prepared 5-hydrazinomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol, 40 mg. of platinum dioxide, 120 ml. of ethyl acetate and 40 ml. glacial acetic acid is hydrogenated at room temperature and about atmospheric pressure until the uptake of hydrogen is about stoichiometric. The resulting mixture is filtered, evaporated in vacuo and the residue taken up in 400 ml. of chloroform, made neutral by shaking with 10% sodium bicarbonate solution, and the aqueous phase discarded. The organic phase is extracted twice with water and then with saturated sodium chloride solution, followed by drying and evaporation in vacuo to about 50 ml. to effect crystallization which is completed by adding 50 ml. of diethyl ether to obtain 5-aminomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol, m.p. 147°-149° C.

reactant | 5-hydrazinomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol | N(N)CC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C16H18N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum dioxide | [Pt](=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-aminomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ol | NCC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C16H17NO
